US08748469B2
Synthesis of 3,3-Dimethyl-5-(2-(1-trityl-1H-imidazol-4-yl)phenoxy)pentyl 4-methylbenzene sulfonate
To a stirred solution of 2-(1-trityl-1H-imidazol-4-yl)phenol (1.50 g, 3.73 mmol) in anhydrous DMF (10 mL) was added NaH (4.10 mmol) portion wise at 0° C. The resulting suspension was allowed to stir for 15 min. To the resulting suspension was added a solution of 3,3-dimethylpentane-1,5-diyl bis(4-methylbenzenesulfonate) (3.28 g, 7.45 mmol) in DMF (8 mL) and the mixture was allowed to stir overnight at rt. The reaction mixture was diluted with water (50 mL) and the aqueous phase was extracted with CH2Cl2 (3×50 mL). The combined organic layers were washed with brine, dried (Na2SO4) and concentrated under reduced pressure to afford a yellow oil which was purified by flash column chromatography on silica gel to afford the desired product (1.60 g, 64% yield). 1H NMR (A): 0.84 (s, 6H), 1.34 (t, 2H, J=7.32 Hz), 1.52 (t, 2H, J=7.20 Hz), 2.38 (s, 3H), 3.85 (t, 2H, J=7.32 Hz), 4.02 (t, 2H, J=7.32 Hz), 6.79 (d, 1H, J=8.19 Hz), 7.03 (t, 1H, J=7.47 Hz, 7.14-7.35 (m, 18H), 7.44 (s, 1H), 7.50 (s, 1H), 7.72-7.77 (m, 2H), 8.23 (d, 1H, J=5.64 Hz). 1H NMR (B): 1.08 (s, 6H), 1.95 (t, 4H, J=7.08 Hz), 4.16 (t, 4H, J=6.96 Hz), 6.92-7.02 (m, 4H), 7.20 (m, 2H), 7.45 (s, 2H), 7.65 (s, 2H), 7.86 (d, 2H, J=6.12 Hz), 8.19 (br s, 2H)

reactant | 2-(1-trityl-1H-imidazol-4-yl)phenol | 3.73 mmol, 1.50 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1C=NC(=C1)C1=C(C=CC=C1)O | C28H22N2O
reactant | NaH | 4.10 mmol | [H-].[Na+]
reactant | 3,3-dimethylpentane-1,5-diyl bis(4-methylbenzenesulfonate) | 7.45 mmol, 3.28 g | CC1=CC=C(C=C1)S(=O)(=O)OCCC(CCOS(=O)(=O)C1=CC=C(C=C1)C)(C)C | C21H28O6S2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3,3-Dimethyl-5-(2-(1-trityl-1H-imidazol-4-yl)phenoxy)pentyl 4-methylbenzene sulfonate | 1.60 g, 64% yield | CC1=CC=C(C=C1)S(=O)(=O)OCCC(CCOC1=C(C=CC=C1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C | C42H42N2O4S
